US04064244
EXAMPLE 23: 2-(4-allyl-1-piperazinyl)-4-tert.butyl-thiazole [process variant a)]
3.7 g of 4-allyl-1-piperazinyl-thiocarboxamide are added to a solution of 3.6 g of bromopinacoline in 40 cc of ethanol, and the reaction mixture is subsequently heated to the boil at reflux for 2 hours. The mixture is subsequently concentrated by evaporation in a vacuum, the residue is dissolved in a small amount of water and divided between ether and a concentrated aqueous sodium hydroxide solution. The ether phase is washed with water, dried over sodium sulphate and saturated with hydrogen chloride gas after filtration. The monohydrochloride of 2-(4-allyl-1-piperazinyl)-4-tert.butyl-thiazole crystallizes and has an M.P. of 212°-214° after recrystallization from ethanol/diisopropyl ether.

reactant | 4-allyl-1-piperazinyl-thiocarboxamide | 3.7 g | C(C=C)N1CCN(CC1)C(=S)N | C8H15N3S
reactant | bromopinacoline | 3.6 g | CC(C)(C)C(=O)CBr | C6H11BrO
solvent | ethanol | 40 cc | C(C)O | C2H6O
product | 2-(4-allyl-1-piperazinyl)-4-tert.butyl-thiazole | C(C=C)N1CCN(CC1)C=1SC=C(N1)C(C)(C)C | C14H23N3S
